US07648989B2
Preparation of 2-[5-(4-Methyl-piperazin-1-yl)-2-nitro-pyridin-3-yl]-acetamide
A solution of [5-(4-Methyl-piperazin-1-yl)-2-nitro-pyridin-3-yl]-acetic acid methyl ester (222 mg, 0.75 mmol) in 33% aq. NH4OH (100 mL) is stirred for 16 h at 50° C. in a sealed autoclave. TLC analysis indicated complete consumption of starting material. The solvent is evaporated at reduced pressure to afford the title compound as a yellow solid in a 3:2 mixture with the corresponding carboxylic acid. 1H NMR (d6-DMSO 400 MHz): δ 2.18 (s, 3H), 2.36-2.44 (m, 4H), 3.36-3.44 (m, 4H), 3.77 (s, 2H), 6.92 (bs, 1H), 7.34 (d, J=2 Hz, 1H), 7.44 (bs, 1H), 8.07 (d, J=2 Hz, 1H). ES+−MS: 280.4 [M+H]+.

reactant | [5-(4-Methyl-piperazin-1-yl)-2-nitro-pyridin-3-yl]-acetic acid methyl ester | 0.75 mmol, 222 mg | COC(CC=1C(=NC=C(C1)N1CCN(CC1)C)[N+](=O)[O-])=O | C13H18N4O4
reactant | NH4OH | 100 mL | [NH4+].[OH-]
product | 2-[5-(4-Methyl-piperazin-1-yl)-2-nitro-pyridin-3-yl]-acetamide | CN1CCN(CC1)C=1C=C(C(=NC1)[N+](=O)[O-])CC(=O)N | C12H17N5O3
